US05874431
2-(4-Aminophenyl)benzoxazole (Compound DF140)
This provides an example of a benzoxazole instead of a benzothiazole. In accordance with synthetic Route A, a mixture of 2-aminophenol (1.5 g, 0.0136 mol) and 4-aminobenzoic acid (1.885 g, 0.0136 mol) in polyphosphoric acid (20 g) was heated at about 190° C. for 4 hours, then cooled and poured into 10% aqueous sodium bicarbonate (400 ml). The product was collected by filtration, washed with water and recrystallised from methanol-H2O (10:1) to give small pale yellow crystals (1.76 g, 62%), m.p. 176°-178° C. (lit 185° C.); vmax /cm-1 3472, 3322, 3186, 1614, 1500, 1454, 1312, 1242, 1170, 1066, 830, 742; δH (DMSO-d6) 7.87(2H, d, J8.6, 2',6'-H), 7.69-7.64(2H, m, 5, 6-H), 7.36-7.28(2H, m, 4, 7-H), 6.70(2H, d, J8.6, 3', 5'-H), 6.02 (2H, s, NH2).

reactant | 2-aminophenol | 0.0136 mol, 1.5 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 4-aminobenzoic acid | 0.0136 mol, 1.885 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | sodium bicarbonate | 400 ml | C([O-])(O)=O.[Na+]
product | 2-(4-Aminophenyl)benzoxazole | 1.76 g, 62% | NC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H10N2O
